US06156899
100 mg of 4-(5-methyl-2,4-dioxo-5-(trifluoromethyl)oxazolidin-3-yl)-2-(trifluoromethyl)-benzonitrile, as prepared in Example 1, were dissolved in 20 ml of a 7/3 ethanol/water mixture and stirred for 5 days at room temperature. The reaction mixture was evaporated to dryness and then purified by chromatography on an RP18 silica column (eluent: 6/4 water/acetonitrile). 18 mg of (4-cyano-3-(trifluoromethyl)phenyl)(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)carbamic acid were obtained, for a yield of 17%.

reactant | 4-(5-methyl-2,4-dioxo-5-(trifluoromethyl)oxazolidin-3-yl)-2-(trifluoromethyl)-benzonitrile | 100 mg | CC1(C(N(C(O1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C(F)(F)F | C13H6F6N2O3
reactant | ethanol water | C(C)O.O
product | (4-cyano-3-(trifluoromethyl)phenyl)(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)carbamic acid | 18 mg, yield of 17% | C(#N)C1=C(C=C(C=C1)N(C(O)=O)C(C(C(F)(F)F)(C)O)=O)C(F)(F)F | C13H8F6N2O4
